US05006531
1'-Acetyl-5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperidine]
To a solution prepared from 5 g of 2-(2-aminophenyl)indole, 100 ml of ethanol and 2 ml of glacial acetic acid was added dropwise 3 ml of 1-acetyl-4-piperidone. The resultant solution was refluxed for 6 hours and thereafter cooled, whereupon a solid precipitated. Filtration and washing with ether and hexane gave 3.95 g of yellow solid, m.p. 285°-287° dec.

reactant | 2-(2-aminophenyl)indole | 5 g | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 1-acetyl-4-piperidone | 3 ml | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1'-Acetyl-5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperidine] | 3.95 g | C(C)(=O)N1CCC2(CC1)NC1=CC=CCC1=C1C2=C2C=CC=CC2=N1 | C21H21N3O
